US04533676
A solution of 4.06 g (0.02 mol) of 4-trifluoromethoxy-phenyl isocyanate in 10 ml of dry toluene is added to 3.48 g (0.02 mol) of 2-chloro-5-fluorobenzamide in 100 ml of dry toluene, at 100° C., in the absence of moisture. The mixture is boiled under reflux for 10 hours. After it has been cooled, the precipitated product is filtered off under suction and rinsed with methanol. 6.2 g (82.5% of theory) of 1-(2-chloro-5-fluoro-benzoyl)-3-(4-trifluoromethoxyphenyl)-urea of melting point 199° C. are obtained. The compound is identical to the compound prepared by process variant (a).

reactant | 4-trifluoromethoxy-phenyl isocyanate | 0.02 mol, 4.06 g | FC(OC1=CC=C(C=C1)N=C=O)(F)F | C8H4F3NO2
reactant | 2-chloro-5-fluorobenzamide | 0.02 mol, 3.48 g | ClC1=C(C(=O)N)C=C(C=C1)F | C7H5ClFNO
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(2-chloro-5-fluoro-benzoyl)-3-(4-trifluoromethoxyphenyl)-urea | 6.2 g, 82.5% | ClC1=C(C(=O)NC(=O)NC2=CC=C(C=C2)OC(F)(F)F)C=C(C=C1)F | C15H9ClF4N2O3
